data/mechanism_extracts/GreenChem/10.1039_d3gc05126a.json
{"doi": "10.1039_d3gc05126a", "journal": "GreenChem", "is_review": false, "rxn_class_summary": "Electrochemical epoxidation of alkenes using water as the oxygen source, catalyzed by a sterically hindered manganese porphyrin (TMP)MnCl under undivided-cell constant-current electrolysis.", "mechanism_family": ["mediator_anodic", "electrocatalysis_inner_sphere"], "electrochemical_role": "Anodic single-electron oxidation of (TMP)Mn(III)(OH) to (TMP)Mn(IV)=O, which either disproportionates or is further oxidized at the anode to give the active [(TMP)Mn(V)=O]+ oxidant; cathode reduces protons to H2.", "key_intermediates": [{"name": "(TMP)Mn(III)(OH) resting catalyst formed with pyridine/H2O", "smiles": null, "role": "resting_state"}, {"name": "(TMP)Mn(IV)=O generated by 1e- anodic oxidation", "smiles": null, "role": "transient"}, {"name": "[(TMP)Mn(V)=O]+ active oxo-transfer species", "smiles": null, "role": "reactive"}, {"name": "epoxide product via O-atom transfer to alkene", "smiles": null, "role": "reactive"}], "electron_flow": "At the anode, (TMP)Mn(III)(OH) is oxidized by sequential single-electron transfers (via (TMP)Mn(IV)=O) to [(TMP)Mn(V)=O]+, or two (TMP)Mn(IV)=O units disproportionate to give [(TMP)Mn(V)=O]+ and (TMP)Mn(III)(OH); the Mn(V)=O then transfers its oxygen (derived from water) to the alkene to deliver the epoxide and regenerate Mn(III)(OH), while protons are reduced to H2 at the Pt cathode.", "rate_determining_step": "Generation of [(TMP)Mn(V)=O]+ via single-electron oxidation/disproportionation of Mn(IV)=O at the anode", "probe_reagents": [{"name": "H2 18-O isotope labeling (H2^18O as co-solvent)", "smiles": null, "purpose": "isotope_label", "observation": "MS of styrene oxide product 2a' showed ^18O incorporation, confirming that the epoxide oxygen originates from water rather than O2."}, {"name": "N2 atmosphere control", "smiles": null, "purpose": "other", "observation": "Reaction performed under N2 excludes molecular oxygen as the O source."}, {"name": "Constant-potential electrolysis at 0.75 V vs Fc+/Fc", "smiles": null, "purpose": "redox_probe", "observation": "At this potential Mn(III)-OH can be oxidized to Mn(IV)=O but Mn(IV)=O cannot be further oxidized; styrene still gave 2a in 87% GC yield (87% FE), supporting disproportionation of Mn(IV)=O to [(TMP)Mn(V)=O]+."}, {"name": "Cyclic voltammetry of (TMP)MnCl", "smiles": null, "purpose": "redox_probe", "observation": "Two redox peaks at 0.67 and 0.9 V vs Fc/Fc+ assigned to Mn(III)/Mn(IV) and Mn(IV)/Mn(V); the Mn(III)/Mn(IV) wave is reversible, indicating a stable Mn(IV) intermediate."}], "evidence_types_used": ["H/D_labeling", "cyclic_voltammetry", "stoichiometric_intermediate", "product_isotope_distribution"], "evidence_strength": "medium", "notes": "Two pathways for forming [(TMP)Mn(V)=O]+ are proposed and not fully distinguished: (a) two consecutive 1e- anodic oxidations of (TMP)Mn(III)(OH); (b) anodic oxidation to (TMP)Mn(IV)=O followed by disproportionation to [(TMP)Mn(V)=O]+ + (TMP)Mn(III)(OH). The constant-potential experiment at 0.75 V (below the Mn(IV)/Mn(V) wave) supports the disproportionation pathway being operative. Contrast with prior salen-Mn electrochemistry, where SET gives (salen)Mn(IV)=O that does electrophilic chlorination/radical-type epoxidation; the bulky TMP ligand is invoked to suppress those off-pathway modes and favor Mn(V)=O formation. Pyridine (0.5 equiv) is required as an axial ligand/base."}
